US07612212B2
N-(4-Bromo-2-chloro-phenyl)-2-{4-[4-(2-tert-butoxy-ethoxy)-phenyl]-2,5-dioxo-imidazolidin-1-yl}-3-phenyl-butyramide (300 mg) was dissolved in dichloromethane (2 mL) and acetonitrile (2 mL) in an ice bath. Trimethylsilyl chloride (0.36 mL, 2.8 mmol) was added followed by sodium iodide (352 mg, 2.35 mmol). The mixture was stirred at 0° C. for 1.5 hours and then diluted with ethyl acetate. The mixture was washed with aqueous sodium bisulfite, washed with brine, dried over sodium sulfate and concentrated in vacuo. Trituration of the residue with hexanes gave N-(4-bromo-2-chloro-phenyl)-2-{4-[4-(2-hydroxy-ethoxy)-phenyl]-2,5-dioxo-imidazolidin-1-yl}-3-phenyl-butyramide (210 mg, 76%).

reactant | N-(4-Bromo-2-chloro-phenyl)-2-{4-[4-(2-tert-butoxy-ethoxy)-phenyl]-2,5-dioxo-imidazolidin-1-yl}-3-phenyl-butyramide | 300 mg | BrC1=CC(=C(C=C1)NC(C(C(C)C1=CC=CC=C1)N1C(NC(C1=O)C1=CC=C(C=C1)OCCOC(C)(C)C)=O)=O)Cl | C31H33BrClN3O5
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
reactant | Trimethylsilyl chloride | 2.8 mmol, 0.36 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium iodide | 2.35 mmol, 352 mg | [I-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-bromo-2-chloro-phenyl)-2-{4-[4-(2-hydroxy-ethoxy)-phenyl]-2,5-dioxo-imidazolidin-1-yl}-3-phenyl-butyramide | 210 mg, 76% | BrC1=CC(=C(C=C1)NC(C(C(C)C1=CC=CC=C1)N1C(NC(C1=O)C1=CC=C(C=C1)OCCO)=O)=O)Cl | C27H25BrClN3O5
